US03966816
N3,N3 -di-n-propyl-2,4-dinitro-6-trifluoromethyl-1,3-phenylenediamine
A glass reaction tube was charged with 4.0 grams (0.0108 mole) of N,N-di-n-propyl-3-chloro-2,6-dinitro-4-trifluoromethylaniline, 5.82 grams (0.0237 mole) of 6.95% ethanolic ammonia and 35 ml. of ethanol. The tube was sealed and heated in an oven at 100°C. for 68 hours. The contents of the tube were cooled and the ethanol removed by evaporation. Water was added to the solid orange rsidue to dissolve the ammnium chloride and the insoluble produced was separated by filtration. The product was dissolved in refluxing 95% ethanol. Upon cooling, orange needles and a yellow powder crystallized. The yellow powder was identified as 2,4-dinitro-6-trifluoromethyl-1,3-phenylenediamine and was separated from the desired product by filtration after extracting with boiling hexane. The desired product dissolved in the hexane and was isolated from the filtrate by evaporation of the hexane. The residue was recyrstallized from 95% ethanol to give orange needles, m.p. 124° - 125°C.

reactant | N,N-di-n-propyl-3-chloro-2,6-dinitro-4-trifluoromethylaniline | 0.0108 mole, 4.0 grams | C(CC)N(C1=C(C(=C(C=C1[N+](=O)[O-])C(F)(F)F)Cl)[N+](=O)[O-])CCC | C13H15ClF3N3O4
reactant | ammonia | 0.0237 mole, 5.82 grams | N | H3N
solvent | ethanol | C(C)O | C2H6O
product | di-n-propyl-2,4-dinitro-6-trifluoromethyl-1,3-phenylenediamine | C(CC)N(C=1C(=C(C(=CC1[N+](=O)[O-])C(F)(F)F)N)[N+](=O)[O-])CCC | C13H17F3N4O4
